US07326791B2
4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(pyridin-2-yl)ethyl]benzamide
Prepared analogously to Example 17 from 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(pyridin-2-yl)ethyl]benzamide and trifluoroacetic acid. Yield: 216 mg (85%, mixture of four stereoisomers); Rf value: 0.27 (silica gel; dichloromethane/methanol/ammonia=9:1:0.1); C27H26Cl2N6O2 (537.45); mass spectrum: (M−H)−=535/537/539 (chlorine isotope).

reactant | 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(pyridin-2-yl)ethyl]benzamide | C(C)(C)(C)OC(=O)NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC2=NC=CC=C2)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C32H34Cl2N6O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
reactant | chlorine | ClCl | Cl2
product | 4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(pyridin-2-yl)ethyl]benzamide | NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC2=NC=CC=C2)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C27H26Cl2N6O2
